US05109014
N-(4-trifluoromethylphenyl)-3-(4-chlorophenyl)-4-phenyl-2,3,4,5-tetrahydro-1H-pyrazole-1-carboxamide
To 20.2 g (45 mmole) of N-(4-trifluoromethylphenyl)-3-(4-chlorophenyl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboxamide U.S. Pat. No. 4,156,007, column 7, line 17) in 75 ml of tetrahydrofuran (THF) that had been cooled under a nitrogen atmosphere to -75° C. was added 100 ml of 1.0M diisobutylaluminum hydride (DIBAL-H) in THF. The reaction mixture was warmed to 0° C. and stirred for 1 hour. An additional 50 ml of the 1.0M DIBAL-H solution was added and the reaction was warmed to 20° C. After 1 more hour yet another 50 ml of the 1.0M DIBAL-H solution was added. After stirring at 20° C. for an additional hour the mixture was cooled to 0° C. and carefully quenched with 40 ml of methanol. This mixture was poured onto a mixture of 300 g of ice and 75 ml of 12M aqueous hydrochloric acid. The mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The resulting solid was recrystallized from 600 ml of ethanol to yield 10.4 g of product, mp 212°-214° C.

reactant | N-(4-trifluoromethylphenyl)-3-(4-chlorophenyl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 45 mmole, 20.2 g | FC(C1=CC=C(C=C1)NC(=O)N1N=C(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)(F)F | C23H17ClF3N3O
reactant | diisobutylaluminum hydride | 1.0M, 100 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | DIBAL-H | 1.0M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | DIBAL-H | 1.0M | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | N-(4-trifluoromethylphenyl)-3-(4-chlorophenyl)-4-phenyl-2,3,4,5-tetrahydro-1H-pyrazole-1-carboxamide | 10.4 g | FC(C1=CC=C(C=C1)NC(=O)N1NC(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)(F)F | C23H19ClF3N3O
